US07947851B2
5-[{4-[(4-butylphenyl)ethynyl]benzyl}(methyl)amino]-2-fluorobenzoic acid
To a solution of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(methyl)amino]-2-fluorobenzoate (66 mg; 0.15 mmol) in 3 mL of anhydrous THF were added. Lithium Hydroxide monohydrate (65 mg; 1.54 mmol) and water (1 mL). The reaction mixture was stirred under micro waves at 100° C. for 3500 s. Then an aqueous solution of HCl was added; the residue was extracted with EtOAc. The combined organic layers were washed with brine, dried over magnesium sulfate, filtrated and concentrated to give 37 mg of the title compound as a white solid. HPLC, Rt: 5.66 min (purity=93.20%). LC/MS, M−(ESI): 414.5. 1H NMR (CDCl3) δ: 7.40 (m, 4H), 7.31 (s, 1H), 7.20 (m, 4H), 6.92 (t, 1H), 6.75 (m, 1H), 4.42 (s, 2H), 2.92 (s, 3H), 2.54 (t, J=7.7 Hz, 2H), 1.50 (m, 2H), 1.25 (m, 2H), 0.82 (t, J=7.5 Hz, 3H).

reactant | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(methyl)amino]-2-fluorobenzoate | 0.15 mmol, 66 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)C)C=C1 | C28H28FNO2
reactant | Lithium Hydroxide monohydrate | 1.54 mmol, 65 mg | O.[OH-].[Li+]
reactant | water | 1 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(methyl)amino]-2-fluorobenzoic acid | 37 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)C)C=C1 | C27H26FNO2
